US09382288B2
3α-Azido-5α-cholestane
4 g (7.37 mmol) 3β-tosyloxy-5α-cholestane and 0.99 g (15.23 mmol) NaN3 are heated under stirring in 25 ml hexamethylphosphoric acid triamide (HMPT) for 3 h to 90° C. The reaction mixture is cooled and given into 100 ml ice water, the precipitated raw product subsequently removed by filtration, washed with water and dissolved in 60 ml ether. The organic phase is washed twice with water, dried over Na2SO4 and concentrated. The resulting wax-like product is directly processed further:

reactant | 3β-tosyloxy-5α-cholestane | 7.37 mmol, 4 g | S(=O)(=O)(C1=CC=C(C)C=C1)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C34H54O3S
reactant | NaN3 | 15.23 mmol, 0.99 g | [N-]=[N+]=[N-].[Na+]
solvent | hexamethylphosphoric acid triamide | 25 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3α-Azido-5α-cholestane | N(=[N+]=[N-])[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H47N3
